US04382938
4-Methyl-1{[2-(4-chlorophenyl)-imidazo[1,2-a] pyridin-3-yl]methylcarbonyl}-piperazine.
4.5 g (15.64 millimols) of 2-(4-chlorophenyl)-imidazo[1,2-a]pyridine-3-acetic acid are added to a suspension of N,N-dimethyl-chloro-methyleneiminium chloride prepared by adding 2.2 g (17.75 millimols) of oxalyl chloride to 30 ml of dimethylformamide (DMF) at -10° C. The suspension is stirred for 15 minutes at 0° C. and a solution of 5.4 g (54 millimols) of 4-methylpiperazine in 10 ml of dry DMF is then added gradually thereto at 0° C. The solution is stirred for 8 hours and then poured into 750 ml of water. The amide is extracted with CH2Cl2, the organic phase is dried over Na2SO4 and concentrated, the residue is passed through a silica column (eluant: CH2Cl2 /CH3OH 9/1) and the compound obtained is recrystallised from an isopropyl ether/acetonitrile mixture. Melting point=175° C.

reactant | 2-(4-chlorophenyl)-imidazo[1,2-a]pyridine-3-acetic acid | 15.64 millimols, 4.5 g | ClC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1CC(=O)O | C15H11ClN2O2
reactant | oxalyl chloride | 17.75 millimols, 2.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-methylpiperazine | 54 millimols, 5.4 g | CN1CCNCC1 | C5H12N2
reactant | water | 750 ml | O | H2O
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 4-Methyl-1{[2-(4-chlorophenyl)-imidazo[1,2-a] pyridin-3-yl]methylcarbonyl}-piperazine | CN1CCN(CC1)C(=O)CC1=C(N=C2N1C=CC=C2)C2=CC=C(C=C2)Cl | C20H21ClN4O
